US09388161B2
A mixture of (5)-tert-butyl 4-(1-(1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.050 g, 0.09 mmol) and palladium on charcoal (10% wt %, 0.040 g) in methanol (15 mL) stirred under an atmosphere of hydrogen for 20 min at room temperature. The reaction mixture was filtered and concentrated under vacuum to afford (S)-tert-butyl 4-(1-(1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-4-yl)piperidine-1-carboxylate (0.048 g, 99%) as a white solid. MS (ESI, pos. ion) m/z 557 [M+H]+.

reactant | (5)-tert-butyl 4-(1-(1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.09 mmol, 0.050 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC(=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)C | C33H38N4O4
catalyst | palladium on charcoal | 0.040 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | (S)-tert-butyl 4-(1-(1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-4-yl)piperidine-1-carboxylate | 0.048 g, 99% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)C | C33H40N4O4
